US06169152A
Synthesis of N-phenyl-1,4,7-triazacyclononanyltitanium dichloride
Separately, 0.647 g (3.41 millimoles) of titanium tetrachloride was dissolved in 20 milliliters of diethyl ether at −50° C. The resulting solution was dropwise added at −60° C. over 2 hours to the toluene mixed solution prepared previously, and the resulting mixture was then heated to 40° C. and then subjected to reaction for a further 6 hours. Subsequently, the reaction mixture obtained was subjected to recrystallization from a hexane/methylene chloride mixed solvent to isolate the product, thereby obtaining N-phenyl-1,4,7-triazacyclononanyltitanium chloride in a yield of 35%.

reactant | titanium tetrachloride | 3.41 millimoles, 0.647 g | [Ti](Cl)(Cl)(Cl)Cl
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | N-phenyl-1,4,7-triazacyclononanyltitanium chloride | [Cl-].C1(=CC=CC=C1)N1CCNCCN(CC1)[Ti+3].[Cl-].[Cl-]
solvent | diethyl ether | 20 milliliters | C(C)OCC | C4H10O
product | N-phenyl-1,4,7-triazacyclononanyltitanium dichloride | [Cl-].[Cl-].C1(=CC=CC=C1)N1CCNCCN(CC1)[Ti+2] | InChI=1S/C12H18N3.2ClH.Ti/c1-2-4-12(5-3-1)15-10-8-13-6-7-14-9-11-15;;;/h1-5,13H,6-11H2;2*1H;/q-1;;;+3/p-2
